US07129232B2
To a stirred suspension of 3-({3-amino-4-[N-(3-aminopropyl)-N-formylamino]-2-(2-hydroxyethyl)-1-pyrazolio}methyl)-7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-cephem-4-carboxylate (100 mg) in methanol (1.4 ml) was added concentrated hydrochloric acid (0.125 ml) at room temperature, and the mixture was stirred for 6.5 hours. To the above solution was added sodium hydrogen carbonate (109 mg), and the mixture was purified by preparative HPLC (ODS column; acetonitrile:phosphate buffer (pH 7)=5:95). The eluate containing a desired product was evaporated to remove acetonitrile, made acidic with diluted hydrochloric acid and chromatographed on Diaion® HP20 (Mitsubishi Chemical Corporation) eluting with 20% aqueous 2-propanol. The eluate was concentrated under reduced pressure and lyophilized to give 3-({3-amino-4-[(3-aminopropyl)amino]-2-(2-hydroxyethyl)-1-pyrazolio}methyl)-7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-cephem-4-carboxylate (18 mg).

reactant | 3-({3-amino-4-[N-(3-aminopropyl)-N-formylamino]-2-(2-hydroxyethyl)-1-pyrazolio}methyl)-7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-cephem-4-carboxylate | 100 mg | NC=1N([N+](=CC1N(C=O)CCCN)CC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/OC(C)(C)C(=O)O)\C2=NSC(=N2)N)=O)=O)CCO | C25H33N11O9S2
reactant | hydrochloric acid | 0.125 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 109 mg | C(O)([O-])=O.[Na+]
solvent | methanol | 1.4 ml | CO | CH4O
product | 3-({3-amino-4-[(3-aminopropyl)amino]-2-(2-hydroxyethyl)-1-pyrazolio}methyl)-7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-cephem-4-carboxylate | 18 mg | NC=1N([N+](=CC1NCCCN)CC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/OC(C)(C)C(=O)O)\C2=NSC(=N2)N)=O)=O)CCO | C24H33N11O8S2
